US08604247B2
a. Preparation of 1-(4-fluorostyryl)naphthalene
An oven-dried 500 ml three-neck flask was purged with nitrogen and charged with (naphthalen-1-ylmethyl)triphenylphosphonium (11.67 g, 26.6 mmol) and dry THF (200 ml). Sodium hydride (1.06 g, 26.6 mmol) was added and reaction mixture was left to stir overnight at room temperature. Solution was orange in the morning. A solution of 4-fluorobenzaldehyde (3.0 g, 24.2 mmol) in dry THF (30 ml) was added next day (16 h later) over the period of 45 minutes, bleaching the orange-red color. Reaction mixture was stirred at room temperature for 24 hours. THF was removed under reduced pressure. Crude product was purified by column chromoatography on silica gel with 5% CHCl3 in hexanes. The desired product is a mixture of cis- and trans-isomers. Yield 5.7 g (95%) of a viscous oil. The structure was confirmed by 1H NMR spectroscopy.

reactant | (naphthalen-1-ylmethyl)triphenylphosphonium | 26.6 mmol, 11.67 g | C1(=CC=CC2=CC=CC=C12)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | Sodium hydride | 26.6 mmol, 1.06 g | [H-].[Na+]
reactant | 4-fluorobenzaldehyde | 24.2 mmol, 3.0 g | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 1-(4-fluorostyryl)naphthalene | FC1=CC=C(C=CC2=CC=CC3=CC=CC=C23)C=C1 | C18H13F
